US08138189B2
Step 5: 5-[2-(2-Chloro-4-methoxy-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-1H-pyridin-2-one
To a solution of 3-(2-chloro-4-methoxy-phenyl)-1,1,1-trifluoro-2-(6-methoxy-pyridin-3-yl)-butan-2-ol (212 mg) in dioxane (8.5 ml) was added concentrated HCl (0.934 ml). The mixture was stirred at 100° C. for 1 h. After cooling to room temperature, EtOAc and water were added and the mixture was extracted with EtOAc. The organic phase was dried (MgSO4), filtered and concentrated to dryness to give the title compound (207 mg) as a colorless solid. MS (m/e, ISP neg. ion)=360.0 [M−H+].

reactant | 3-(2-chloro-4-methoxy-phenyl)-1,1,1-trifluoro-2-(6-methoxy-pyridin-3-yl)-butan-2-ol | 212 mg | ClC1=C(C=CC(=C1)OC)C(C(C(F)(F)F)(O)C=1C=NC(=CC1)OC)C | C17H17ClF3NO3
reactant | HCl | 0.934 ml | Cl | ClH
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | water | O | H2O
solvent | dioxane | 8.5 ml | O1CCOCC1 | C4H8O2
product | 5-[2-(2-Chloro-4-methoxy-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-1H-pyridin-2-one | 207 mg | ClC1=C(C=CC(=C1)OC)C(C(C(F)(F)F)(O)C=1C=CC(NC1)=O)C | C16H15ClF3NO3
